US09278950B2
Step 2. Benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(4-methyl-3-oxopiperazin-1-yl)quinolin-3-yl]carbamate
To a mixture of 3-{[(benzyloxy)carbonyl]amino}-7-(4-methyl-3-oxopiperazin-1-yl)quinoline-2-carboxylic acid (0.012 g, 0.028 mmol), tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-methylpiperidin-3-yl]carbamate (0.013 g, 0.043 mmol) and HATU (0.034 g, 0.089 mmol) in DMF (0.30 mL), DIPEA (0.019 mL, 0.11 mmol) was added. The resulting mixture was stirred at room temperature for 2 h, then quenched with 5 mL of EtOAc and 3 mL of 1 M NaOH. The resulting layers were separated and the aqueous phase was extracted with EtOAc. The combined organic extracts were concentrated under reduced pressure, then purified by preparative HPLC (XBridge™ C18 column, eluting with a gradient of MeCN/water containing 0.1% NH4OH, at a flow rate of 60 mL/min.) to afford the sub-title compound as a yellow solid (0.005 g, 20%). LCMS calc. for C39H46N8O6 [M+H]+: m/z=723.4. found: 723.4.

reactant | 3-{[(benzyloxy)carbonyl]amino}-7-(4-methyl-3-oxopiperazin-1-yl)quinoline-2-carboxylic acid | 0.028 mmol, 0.012 g | C(C1=CC=CC=C1)OC(=O)NC=1C(=NC2=CC(=CC=C2C1)N1CC(N(CC1)C)=O)C(=O)O | C23H22N4O5
reactant | tert-butyl [(3S,5R)-1-(3-aminopyridin-4-yl)-5-methylpiperidin-3-yl]carbamate | 0.043 mmol, 0.013 g | NC=1C=NC=CC1N1C[C@H](C[C@H](C1)C)NC(OC(C)(C)C)=O | C16H26N4O2
reactant | HATU | 0.089 mmol, 0.034 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.11 mmol, 0.019 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 0.30 mL | CN(C)C=O | C3H7NO
product | Benzyl [2-{[(4-{(3S,5R)-3-[(tert-butoxycarbonyl)amino]-5-methylpiperidin-1-yl}pyridin-3-yl)amino]carbonyl}-7-(4-methyl-3-oxopiperazin-1-yl)quinolin-3-yl]carbamate | 0.005 g, 20% | C(C)(C)(C)OC(=O)N[C@@H]1CN(C[C@@H](C1)C)C1=C(C=NC=C1)NC(=O)C1=NC2=CC(=CC=C2C=C1NC(OCC1=CC=CC=C1)=O)N1CC(N(CC1)C)=O | C39H46N8O6
